US07396880B2
Vinylbenzyl Alcohol (VBA), Procedure B
A second 12 L flask equipped with mechanical stirrer, condensor, and thermocouple was charged with 761.0 g (13.56 mol) KOH (potassium hydroxide), 3.5 L (86.6 mol) of MeOH (methanol), 1.1 L (58.38 mol) of water, and 703 g of vinylbenzyl acetate from the previous step producing a dark red-colored solution. The reaction was heated to reflux and followed by TLC, which indicated that the reaction was complete after 1 hour. The reaction mixture was cooled to room temperature and extracted twice with 4 L of diethyl ether. The ether layer was then washed with three times with 4 L of aqueous sodium chloride, then two times with 4 L of water. The ether layer was dried with MgSO4 (magnesium sulfate) and filtered. Ether was removed from the filtrate under reduced pressure to give a brown oil. (487.0 g, 91% yield) (94% overall). 1H NMR (DMSO-d6): δ 7.35 (m, 4H, aromatic), δ 6.70 (m, 1H, vinyl), δ 5.75 (d, 1H, vinyl), δ 5.25 (d, 1H, vinyl), δ 4.65 (d, 2H, benzyl).

reactant | KOH | 13.56 mol, 761.0 g | [OH-].[K+]
reactant | MeOH | 86.6 mol, 3.5 L | CO | CH4O
reactant | water | 58.38 mol, 1.1 L | O | H2O
reactant | vinylbenzyl acetate | 703 g | C(C)(=O)OC(C1=CC=CC=C1)C=C | C11H12O2
product | Vinylbenzyl Alcohol | C(=C)C(C1=CC=CC=C1)O | C9H10O
